US07772226B2
176 mg of t-butyl 4-[7-(2-butynyl)-2-chloro-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate was dissolved in 2 ml of N-methylpyrrolidone, and 100 mg of sodium cyanide was added thereto. The mixture was stirred at 50° C. for 0.5 hour. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was concentrated to give 170 mg of t-butyl 4-[7-(2-butynyl)-2-cyano-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate. 98 mg of this compound was dissolved in a mixture of 3 ml of tetrahydrofuran and 2 ml of methanol, and 0.5 ml of an aqueous solution of 20% ammonia and 0.5 ml of an aqueous solution of 30% hydrogen peroxide were added thereto. The mixture was stirred at room temperature overnight. Ethyl acetate was added to the reaction solution, and the mixture was washed with water. The organic layer was dried over anhydrous magnesium sulfate, then filtered. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 77 mg of the title compound was obtained from the fraction eluted with ethyl acetate-methanol.

reactant | t-butyl 4-[7-(2-butynyl)-2-chloro-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 176 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)C)Cl)N1CCN(CC1)C(=O)OC(C)(C)C | C19H25ClN6O3
reactant | sodium cyanide | 100 mg | [C-]#N.[Na+]
reactant | Water | O | H2O
solvent | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | t-butyl 4-[7-(2-butynyl)-2-cyano-1-methyl-6-oxo-6,7-dihydro-1H-purin-8-yl]piperazine-1-carboxylate | 170 mg | C(C#CC)N1C(=NC=2N=C(N(C(C12)=O)C)C#N)N1CCN(CC1)C(=O)OC(C)(C)C | C20H25N7O3
